US04330366
A mixture of 520 g of 3,5-dichloro-2,4,6-trifluorobenzotrifluoride and 400 g of chlorosulphonic acid is heated for 4 hours, whilst stirring, as described in Example 1. 392 g of 3,5-dichloro-2,4,6-trifluorobenzoyl fluoride (82% of the theoretical yield) of boiling point 90° to 95° C./15 mbars and nD20 :1.5007 are obtained by distillation.

reactant | 3,5-dichloro-2,4,6-trifluorobenzotrifluoride | 520 g | ClC=1C(=C(C(=C(C1F)Cl)F)C(F)(F)F)F | C7Cl2F6
reactant | chlorosulphonic acid | 400 g | ClS(=O)(=O)O | ClHO3S
product | 3,5-dichloro-2,4,6-trifluorobenzoyl fluoride | 392 g | ClC=1C(=C(C(=O)F)C(=C(C1F)Cl)F)F | C7Cl2F4O
